US05331006
Method was as described for Example 30, Step 5, but using N-(2-adamantyloxy-carbonyl)-2-(quinolin-yl)-alanine methyl ester (3.5 g, 8.3 mmol) to obtain N-(2-adamantyloxy-carbonyl)-2-(quinolin-yl)-alanine (2.0 g, 59.0%) as a beige solid from n-pentane.

reactant | N-(2-adamantyloxy-carbonyl)-2-(quinolin-yl)-alanine methyl ester | 8.3 mmol, 3.5 g | COC([C@@](NC(=O)OC1C2CC3CC(CC1C3)C2)(C)C2=NC3=CC=CC=C3C=C2)=O | C24H28N2O4
solvent | n-pentane | CCCCC | C5H12
product | N-(2-adamantyloxy-carbonyl)-2-(quinolin-yl)-alanine | 2.0 g, 59.0% | C12C(C3CC(CC(C1)C3)C2)OC(=O)N[C@@](C)(C(=O)O)C2=NC3=CC=CC=C3C=C2 | C23H26N2O4
